US05972965
Dichloromethane solution (10 ml) of 1-amino-2,3-dihydro-4-methoxy-1H-indene (0.38 g), trifluoroacetic anhydride (0.50 ml), pyridine (0.35 ml) and 4-dimethylaminopyridine (catalytic amount) were stirred for 40 minutes at 0° C. and for 2 days at ambient temperature. The solvent was removed in vacuo. The residue was extracted with ethyl acetate. The mixture was washed with 1N HCl solution and brine, dried over MgSO4, and evaporated in vacuo to afford 1-trifluoroacetamido-2,3-dihydro-4-methoxy-1H-indene (0.47 g). MS (m/z): 147 (M+ -CF3CONH) IR (Nujol): 1690 cm-1NMR (CDCl3, δ): 1.65-1.96 (1H, m), 2.58-3.08 (3H, m), 3.85 (3H, s), 5.50 (1H, q, J=7.6 Hz), 6.44 (1H, br), 6.80 (1H, d, J=8.1 Hz), 6.90 (1H, d, J=7.6 Hz), 7.25 (1H, dd, J=7.6, 8.1 Hz)

reactant | Dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 1-amino-2,3-dihydro-4-methoxy-1H-indene | 0.38 g | NC1CCC2=C(C=CC=C12)OC | C10H13NO
reactant | trifluoroacetic anhydride | 0.50 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 0.35 ml | N1=CC=CC=C1 | C5H5N
product | 1-trifluoroacetamido-2,3-dihydro-4-methoxy-1H-indene | 0.47 g | FC(C(=O)NC1CCC2=C(C=CC=C12)OC)(F)F | C12H12F3NO2
